US05849859
30.4 g (264 mmol) of dichloromethyl methyl ether were added slowly to 34.4 g (264 mmol) of 4-methyl-2-oxovaleric acid and the mixture was heated to 50° C. (bath temp.). After stirring for 60 min. at this temperature, the crude product was fractionated on a vigreux column to give the 4-methyl-2-oxovaleryl chloride (b.p. 41° C./14 mbar). 14.7 g (99 mmol) of 4-methyl-2-oxovaleryl chloride were dissolved in 144 ml of tetrahydrofuran and the solution was added dropwise at 0° C. to a solution of 6.66 g (45 mmol) of the polyester of Example 6 (monomer unit 2c) and 7.83 g (99 mmol) of pyridine in 514 ml of tetrahydrofuran/dimethylformamide (5:1). The reaction mixture was stirred at 0° C. for additional 3 hours, then filtered through Hyflo Cel and the filtrate was concentrated under reduced pressure. The polymeric product was precipitated by dropwise addition of the resulting solution into 1000 ml of isopropyl ether/n-hexane (1.5:1). The precipitate was stirred several times in tetrahydrofuran/diethyl ether (1:2) and the insoluble part was removed by filtration. The resulting clear solution was added dropwise into 500 ml of isopropyl ether, the precipitate was redissolved in tetrahydrofuran and precipitated from 1000 ml of n-hexane giving a polyester having the monomer unit 11c.

reactant | dichloromethyl methyl ether | 264 mmol, 30.4 g | COC(Cl)Cl | C2H4Cl2O
reactant | 4-methyl-2-oxovaleric acid | 264 mmol, 34.4 g | CC(CC(C(=O)O)=O)C | C6H10O3
product | 4-methyl-2-oxovaleryl chloride | CC(CC(C(=O)Cl)=O)C | C6H9ClO2
